US07812024B2
Step A. Preparation of N,N-diethyl-3-chloro-2-hydroxybenzamide
To a stirring solution of 3-chloro-2-hydroxybenzoic acid (7.2 g, 42 mmol) and diethyl amine (15.2 g, 209 mmol) in dry CH2Cl2 (200 mL) was added benzotriazol-1-yloxy tripyrrolidinophosphonium hexafluorophosphate (22.8 g, 44 mmol) in dry CH2Cl2 (200 mL). The reaction was stirred overnight and then quenched with 6M HCl. The layers were separated and the aqueous layer was extracted with EtOAc (3×100 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a brown oil. The oil was purified by flash chromatography (silica gel, 0-50% EtOAc in hexanes) to yield 7.6 g of the desired product as a reddish oil.

reactant | 3-chloro-2-hydroxybenzoic acid | 42 mmol, 7.2 g | ClC=1C(=C(C(=O)O)C=CC1)O | C7H5ClO3
reactant | diethyl amine | 209 mmol, 15.2 g | C(C)NCC | C4H11N
reactant | benzotriazol-1-yloxy tripyrrolidinophosphonium hexafluorophosphate | 44 mmol, 22.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-3-chloro-2-hydroxybenzamide | 7.6 g | C(C)N(C(C1=C(C(=CC=C1)Cl)O)=O)CC | C11H14ClNO2
